US09446034B2
Int. 6c) 1-ethyl-3-[2-(1-pyrrolidinyl)ethyl]-1H-pyrazol-5-amine
To a solution of 1-ethyl-3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1H-pyrazol-5-amine (600 mg, 1.784 mmol) in tetrahydrofuran (8 mL) cooled with water-ice bath was added a solution of 2M LAH (1.0 mL, 2.00 mmol) solution dropwise, and the reaction mixture was stirred for 5 h at rt and 30 min at 50 degree. The reaction mixture was carefully quenched with methanol followed by water and concentrated. The residue was washed with DCM/methanol 5 times. The extract was concentrated and the residue was purified using HPLC under the basic conditions to give 220 mg of product. MS: (M+H)+=208.7. 1H NMR (400 MHz, CHLOROFORM-d) ppm 1.37 (t, J=7.2 Hz, 3H), 1.79 (m, 4H), 2.56 (m, 4H), 2.71 (m, 2H), 3.42 (m, 2H), 3.94 (q, J=7.2 Hz, 2H), 5.40 (s, 1H).

reactant | 1-ethyl-3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1H-pyrazol-5-amine | 1.784 mmol, 600 mg | C(C)N1N=C(C=C1N)CC(N1CCCC1)=O | C11H18N4O
reactant | LAH | 2.00 mmol, 2M, 1.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-ethyl-3-[2-(1-pyrrolidinyl)ethyl]-1H-pyrazol-5-amine | 220 mg | C(C)N1N=C(C=C1N)CCN1CCCC1 | C11H20N4
